US05162520
To a solution of di(trifluoroacetic acid) salt of 7β-amino-3-(4-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (4.0 g) and N-(trimethylsilyl)acetamide (9.29 g) in tetrahydrofuran (60 ml) was added methanesulfonyl (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetate (2.07 g) under ice-cooling. The mixture was stirred for 1 hour at ambient temperature and then the resulting mixture was added dropwise to diisopropyl ether. Thus produced precipitate was collected by filtration, dissolved in water and then subjected to column chromatography on macroporous non-ionic adsorption resin, Diaion HP-20 (Trademark: manufactured by Mitsubishi Chemical Industries). The desired product was eluted with 10% aqueous isopropyl alcohol solution, and then lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3- (4-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer 0.714 g).

reactant | 7β-amino-3-(4-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 4.0 g | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=C(C2)NC=O)C)C(=O)[O-])C1=O | C13H15N5O4S
reactant | N-(trimethylsilyl)acetamide | 9.29 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | methanesulfonyl (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetate | 2.07 g | NC1=NC(=NS1)/C(/C(=O)OS(=O)(=O)C)=N/OCC(=O)O | C7H8N4O7S2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3- (4-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.714 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=C(C2)NC=O)C)C(=O)[O-])C1=O)=NOCC(=O)O | C19H19N9O8S2
